US09334267B2
1-(5-Amino-2-bromo-4-fluorophenyl)propan-2-one
Treat a mixture of 1-(2-bromo-4-fluoro-5-nitrophenyl)propan-2-one (12 g, 43.6 mmol) in acetic acid (200 mL) with iron powder (24 g, 0.436 mol) and stir at 50° C. for 1 h. Add water and EtOAc, filter to remove solids, and extract the filtrate with EtOAc (2×). Wash the combined organics with saturated. Na2CO3, then brine, dry over Na2SO4 and concentrate to dryness to afford the title compound (10.2 g, 94% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.26 (d, J=10.8 Hz, 1H), 6.69 (d, J=9.6 Hz, 1H), 5.33 (s, 2H), 3.74 (s, 2H), 2.14 (s, 3H).

reactant | 1-(2-bromo-4-fluoro-5-nitrophenyl)propan-2-one | 43.6 mmol, 12 g | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])CC(C)=O | C9H7BrFNO3
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.436 mol, 24 g | [Fe] | Fe
product | 1-(5-Amino-2-bromo-4-fluorophenyl)propan-2-one | 10.2 g, 94% yield | NC=1C(=CC(=C(C1)CC(C)=O)Br)F | C9H9BrFNO
